2142-06-03 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - C collar placed for ?trauma; consider C-spine xray and CT head when
   more stable. Hip xray without fx.
   - TTE showed worsened LVEF 20-25% with hypokinetic RV with e/o elevated
   RV pressures.
   - Versed/fentanyl weaned to prn boluses. Started amiodarone with
   improved HR control. Levophed dependent with drop in SBP to 40s when
   off pressors transiently for blood draw but tachycardic when too high.
   - Agitated and tried to pull out ETT so switched from fentanyl/versed
   bolus to gtt.
   - Able to wean off AC to PS.
   - Started tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-6-2**] 09:50 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.1 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2142-6-2**] 10:50 PM
   Fentanyl - [**2142-6-2**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-3**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 103 (95 - 132) bpm
   BP: 98/49(63) {97/47(62) - 98/49(63)} mmHg
   RR: 0 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 20 (11 - 350)mmHg
   Total In:
                                                                  1,098 mL
                                                                    372 mL
   PO:
   TF:
                                                                     73 mL
                                                                    163 mL
   IVF:
                                                                    965 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                     25 mL
   Urine:
                                                                    135 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    963 mL
                                                                    347 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 432 (432 - 432) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/41/132/21/-2
   Ve: 6 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: intubated, sedated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: irregular, tachycardic
   Respiratory / Chest: Bronchial BS b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, purple toes bilaterally, DP pulses
   diminished but dopplerable
   Labs / Radiology
   144 K/uL
   11.7 g/dL
   193 mg/dL
   6.5 mg/dL
   21 mEq/L
   5.6 mEq/L
   62 mg/dL
   95 mEq/L
   131 mEq/L
   35.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2142-6-2**]  05:24 AM
                             [**2142-6-2**]  07:40 AM
                             [**2142-6-2**]  07:50 AM
                             [**2142-6-2**]  10:31 AM
                             [**2142-6-2**]  03:53 PM
                             [**2142-6-2**]  04:17 PM
                             [**2142-6-2**]  08:52 PM
                             [**2142-6-3**]  02:39 AM
                             [**2142-6-3**]  02:53 AM
                             [**2142-6-3**]  05:22 AM
   WBC
   11.2
   12.2
   Hct
   38.9
   37.7
   35.1
   Plt
   133
   144
   Cr
   5.9
   6.3
   6.3
   6.5
   TCO2
   24
   23
   25
   22
   24
   Glucose
   189
   213
   207
   193
   Other labs: PT / PTT / INR:14.1/27.5/1.2, ALT / AST:24/86, Alk Phos / T
   Bili:171/, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, Ca++:9.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   85F with h/o ESRD on HD, presenting with hypotension.
   .
   # hypotension - consistent with hypovolemic shock given clinical
   history, HCT changes may not reflect acuity of bleed.  remains
   hypotensive despite 3U PRBC in ED and 1L IVF, in setting of unclear
   volume loss.  given h/o CHF current CVP is more consistent cardiogenic
   shock, also cool extremities, though this could also represent
   peripheral vasoconstriction.  while less likely given lack of fever,
   leukocytosis, sepsis is also a consideration.
   - transduce CVP from cordis -> 19, c/w cardiogenic shock.
   - check SvO2 to confirm decreased CO, if present, consider swan, for
   pressor guided diuresis.
   - check TTE to evaluate [**Last Name (LF) **], [**First Name3 (LF) 300**], valves.
   - start amio gtt for tachycardia.
   - transfuse PRBC and IVF NS if CVP<10.
   - titrate levophed gtt for MAP>65, could consider neo gtt given
   tachycardia, however must consider severe PVD, and risk of limb
   necrosis.
   - cover with vancomycin for now given L LE wounds.
   - check BCx, UCx.
   .
   # respiratory failure - pt intubated in the setting of prolonged
   hypotension, resulting on altered mental status, and concern over
   patient's airway.  pre-intubation ABG 7.35/46/340, consistent with good
   lung mechanics.
   - wean sedation as tolerated.
   - wean vent support.
   .
   # ?s/p fall - by report, fell out of bed causing HD line to be
   displaced.
   - c-collar.
   - plain films of hips, ct neck when more stable.
   .
   # anemia - baseline HCT ~30 at NEBH per OMR in 5/09per OMR (last in
   [**2139**]).
   - as above, transfuse for goal HCT>28, or CVP<[**10-8**].
   .
   # DM - cover with SSI while inpatient.
   .
   # ESRD on HD - will need to touch base with family re where dialysis
   occurs, and which days.
   - consult renal re hd.
   - renally dose meds.
   .
   # HTN - hold anti-hypertensive in setting of hypotension.
   .
   # CHF (EF 50-60%) - clinically euvolemic/dry.
   - hold lasix, ACE.
   .
   # CAD s/p MI, CABG - with h/o aflutter.
   - hold aspirin in setting of bleeding.
   .
   # DM2 - cover with SSI while inpatient.
   .
   # PVD - s/p aortofemoral bypass.
   - continue aspirin as above.
   .
   # FEN: No IVF, cardiac, diabetic diet.
   ICU Care
   Nutrition: Tube feeds
   Lines:
   Cordis/Introducer - [**2142-6-2**] 06:00 AM
   18 Gauge - [**2142-6-2**] 07:43 AM
   Arterial Line - [**2142-6-2**] 07:47 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:  PPI
   Comments:
   Communication:  Comments: With family. Husband [**Name (NI) 9243**]: [**Telephone/Fax (1) 9244**],
   [**First Name5 (NamePattern1) 9245**] [**Last Name (NamePattern1) 9246**] (DTR): [**Telephone/Fax (1) 9247**] or [**Telephone/Fax (1) 9248**].
   Code status: DNR (do not resuscitate), do not re-intubate.
   Disposition: pending above

2142-06-03 10:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2142-6-2**] 09:00 AM
 BLOOD CULTURED - At [**2142-6-2**] 09:15 AM
 URINE CULTURE - At [**2142-6-2**] 09:15 AM
 TRANSTHORACIC ECHO - At [**2142-6-2**] 09:29 AM
   Patient move to PSV trial this am
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-6-2**] 09:50 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2142-6-2**] 10:50 PM
   Fentanyl - [**2142-6-2**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2142-6-3**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 103 (94 - 121) bpm
   BP: 109/57(72) {92/44(57) - 109/57(72)} mmHg
   RR: 23 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 20 (11 - 350)mmHg
   Total In:
                                                                  1,098 mL
                                                                    457 mL
   PO:
   TF:
                                                                     73 mL
                                                                    163 mL
   IVF:
                                                                    965 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                     60 mL
   Urine:
                                                                    135 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    963 mL
                                                                    397 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 497 (432 - 497) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/43/123/21/-1
   Ve: 5.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.7 g/dL
   144 K/uL
   193 mg/dL
   6.5 mg/dL
   21 mEq/L
   5.6 mEq/L
   62 mg/dL
   95 mEq/L
   131 mEq/L
   35.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2142-6-2**]  07:40 AM
                             [**2142-6-2**]  07:50 AM
                             [**2142-6-2**]  10:31 AM
                             [**2142-6-2**]  03:53 PM
                             [**2142-6-2**]  04:17 PM
                             [**2142-6-2**]  08:52 PM
                             [**2142-6-3**]  02:39 AM
                             [**2142-6-3**]  02:53 AM
                             [**2142-6-3**]  05:22 AM
                             [**2142-6-3**]  08:00 AM
   WBC
   11.2
   12.2
   Hct
   38.9
   37.7
   35.1
   Plt
   133
   144
   Cr
   5.9
   6.3
   6.3
   6.5
   TCO2
   23
   25
   22
   24
   25
   Glucose
   189
   213
   207
   193
   Other labs: PT / PTT / INR:14.1/27.5/1.2, ALT / AST:24/86, Alk Phos / T
   Bili:171/, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, Ca++:9.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:7.4 mg/dL
   Fluid analysis / Other labs: 7.35/41/142
   Imaging: CXR-
   Assessment and Plan
   85 yo female admitted s/p fall and with significant blood loss in the
   setting of fall and blood loss with hemodialysis catheter removal.  She
   has had C-collar placed.  Patient now has shown some significant
   improvement in the capacity to tolerate PSV wean through to this
   morning and has been on SBT this morning with good tolerance.
   1)Respiratory Failure-Patient with continued PSV support and will
   repeat RSBI in the morning following PSV support at this time.
   -Check ABG at end of 60 minute breathing trial today.
   -Return to PSV to continue support
   2)Hypotension-This may well have been a significant component of
   hypovolemia but this has been corrected and has had persistent
   hypotension with volume replete raising concern of cardiogenic
   contribution with persistent A-Fib with RVR and have been able to wean
   down but not off Levophed.
   -IVF bolus as needed
   -RV hypokinesis is of concern on ECHO and will have to consider further
   evaluation for source of obstructive shock at this time.
   -Would favor continued support with Levophed and move to evaluate for
   possible PE as unifying source
   -Check CvO2
   -Check CTA to evaluate PE if able
   -Continue with Amiodarone
   3)Chronic Renal Failure-Was on HD, will need to re-consider future
   goals of care and if in that light patient would need to continue to
   maintain adequate access with repeat placement of catheter.
   -Amiodarone
   -Levophed
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2142-6-2**] 06:00 AM
   18 Gauge - [**2142-6-2**] 07:43 AM
   Arterial Line - [**2142-6-2**] 07:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2142-06-04 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 C-SPINE CLEARANCE - At [**2142-6-3**] 04:40 PM
 INVASIVE VENTILATION - STOP [**2142-6-3**] 04:45 PM
 ARTERIAL LINE - STOP [**2142-6-4**] 12:19 AM
   [**2142-6-3**]
   - Dr. [**Last Name (STitle) **] recommended continuing amio gtt for 24 hr until AM of [**2142-6-4**]
   and wanted her to be full code.
   - CT head and neck without fracture.  Sedation was lightened and
   C-spine was cleared.
   - Patient was extubated without trouble, but was delerious and
   uncomfortable.
   - In the evening, we were approached by the patient's family who wanted
   to speak to palleative care/hospice and wanted her to be DNR/DNI.  Dr.
   [**Last Name (STitle) **] was made aware of the change in her code status and spoke with her
   family about the decision.
   - She was given morphine for pain and discomfort as well as lorazepam
   for agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-6-2**] 09:50 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Morphine Sulfate - [**2142-6-3**] 09:15 PM
   Lorazepam (Ativan) - [**2142-6-4**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 110 (103 - 120) bpm
   BP: 95/43(55) {83/32(49) - 119/76(80)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    903 mL
                                                                    146 mL
   PO:
             TF:
                                                                    163 mL
   IVF:
                                                                    600 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                    155 mL
                                                                     37 mL
   Urine:
                                                                    155 mL
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    748 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (497 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.34/38/99.[**Numeric Identifier 253**]/23/-4
   Ve: 6.3 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: NAD, mildly tachypnic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: irregular, tachycardic
   Respiratory / Chest: Bronchial BS b/l
   Abdominal: Soft, Non-tender
   Labs / Radiology
   113 K/uL
   10.6 g/dL
   255 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.7 mEq/L
   67 mg/dL
   92 mEq/L
   131 mEq/L
   32.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2142-6-2**]  03:53 PM
                             [**2142-6-2**]  04:17 PM
                             [**2142-6-2**]  08:52 PM
                             [**2142-6-3**]  02:39 AM
                             [**2142-6-3**]  02:53 AM
                             [**2142-6-3**]  05:22 AM
                             [**2142-6-3**]  08:00 AM
                             [**2142-6-3**]  11:11 AM
                             [**2142-6-3**]  05:43 PM
                             [**2142-6-4**]  03:33 AM
   WBC
   12.2
   12.1
   Hct
   35.1
   32.2
   Plt
   144
   113
   Cr
   6.3
   6.3
   6.5
   7.0
   TropT
   0.49
   TCO2
   25
   22
   24
   25
   25
   21
   Glucose
   [**Telephone/Fax (3) 9259**]55
   Other labs: PT / PTT / INR:14.1/27.5/1.2, CK / CKMB /
   Troponin-T:52/7/0.49, ALT / AST:24/86, Alk Phos / T Bili:171/, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:8.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   85F with h/o ESRD on HD, presenting with hypotension, was intubated.
   Family requested palliative care meeting and would like her to return
   home with hospice if possible.
   .
   # Comfort care: Patient appeared to have a restful night after boluses
   of morphine and ativan.
   - Discussion with family and Dr. [**Last Name (STitle) **] about goals of care to ensure
   everyone is on the same page.
   - continue morphine and ativan PRN
   - continue Oxygen PRN for dyspnea.
   .
   # ESRD on HD: Cr mildly increased
   - patient and family do not want any further dialysis, cancelled
   dialysis catheter placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2142-6-2**] 06:00 AM
   18 Gauge - [**2142-6-2**] 07:43 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:Transfer to floor

2142-06-05 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CMO - kept norepinephrine going at this time to allow family to come
   see patient. Palliative care aware.
   - Pressors discontinued in evening. Patient maintaining MAP 50s off of
   pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-6-2**] 09:50 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2142-6-4**] 04:30 PM
   Lorazepam (Ativan) - [**2142-6-4**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-5**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 106 (93 - 114) bpm
   BP: 97/40(55) {74/33(45) - 118/82(100)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    386 mL
                                                                     91 mL
   PO:
             TF:
   IVF:
                                                                    386 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                    162 mL
                                                                     30 mL
   Urine:
                                                                    162 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    224 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ////
   Physical Examination
   General:  Appears comfortable, NAD
   Rest of exam deferred as CMO
   Labs / Radiology
   113 K/uL
   10.6 g/dL
   255 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.7 mEq/L
   67 mg/dL
   92 mEq/L
   131 mEq/L
   32.2 %
   12.1 K/uL
        [image002.jpg]
   No bloodwork
 CMO
                             [**2142-6-2**]  03:53 PM
                             [**2142-6-2**]  04:17 PM
                             [**2142-6-2**]  08:52 PM
                             [**2142-6-3**]  02:39 AM
                             [**2142-6-3**]  02:53 AM
                             [**2142-6-3**]  05:22 AM
                             [**2142-6-3**]  08:00 AM
                             [**2142-6-3**]  11:11 AM
                             [**2142-6-3**]  05:43 PM
                             [**2142-6-4**]  03:33 AM
   WBC
   12.2
   12.1
   Hct
   35.1
   32.2
   Plt
   144
   113
   Cr
   6.3
   6.3
   6.5
   7.0
   TropT
   0.49
   TCO2
   25
   22
   24
   25
   25
   21
   Glucose
   [**Telephone/Fax (3) 9259**]55
   Other labs: PT / PTT / INR:14.1/27.5/1.2, CK / CKMB /
   Troponin-T:52/7/0.49, ALT / AST:24/86, Alk Phos / T Bili:171/, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:8.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   85F with h/o ESRD on HD, presenting with hypotension, was intubated.
   Family requested palliative care meeting and would like her to return
   home with hospice if possible.
   .
   # Comfort care: Patient appeared to have a restful night after boluses
   of morphine and ativan.
   - Discussion with family and Dr. [**Last Name (STitle) **] about goals of care to ensure
   everyone is on the same page.
   - continue morphine and ativan PRN
   - continue Oxygen PRN for dyspnea.
   .
   # ESRD on HD: Cr mildly increased
   - patient and family do not want any further dialysis, cancelled
   dialysis catheter placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2142-6-2**] 06:00 AM
   18 Gauge - [**2142-6-2**] 07:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: